US04720586
(a) Methyl-trans-4-(2-phenylethylaminocarbonyl)- cyclohexanecarboxylate
The product was prepared from benzeneethanamine and 1,4-trans cyclohexanedicarboxylic acid monomethyl ester by the method described in Example 6 (a) mp 120°-124°.

reactant | benzeneethanamine | C1(=CC=CC=C1)CCN | C8H11N
reactant | 1,4-trans cyclohexanedicarboxylic acid monomethyl ester | COC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C9H14O4
product | Methyl-trans-4-(2-phenylethylaminocarbonyl)- cyclohexanecarboxylate | COC(=O)[C@@H]1CC[C@H](CC1)C(=O)NCCC1=CC=CC=C1 | C17H23NO3
